US06989402B1
3,5-Dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzoyl-4-(2-aminoethyl)benzenesulphonam ide
3,5-Dibromo-4-(4-methoxy-3-isopropylphenoxy)benzoic acid (0.035 mmol) was coupled with 4-(2-aminoethyl)benzenesulphonamide (0.175 mmol) using the method described in Example 58. Purification on HPLC of the residue gave 10 mg (47%) of the title compound.

reactant | 3,5-Dibromo-4-(4-methoxy-3-isopropylphenoxy)benzoic acid | 0.035 mmol | BrC=1C=C(C(=O)O)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Br | C17H16Br2O4
reactant | 4-(2-aminoethyl)benzenesulphonamide | 0.175 mmol | NCCC1=CC=C(C=C1)S(=O)(=O)N | C8H12N2O2S
product | 3,5-Dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzoyl-4-(2-aminoethyl)benzenesulphonam ide | 10 mg, 47% | BrC=1C=C(C(=O)C2=C(C=CC(=C2)CCN)S(=O)(=O)N)C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Br | C24H24Br2N2O5S
